US05753710
1.9 g of 4-fluoro-3-trifluoromethylbenzaldehyde, 30 ml of methylamine and 2 g of magnesium sulfate were stirred at room temperature for 2 h, the excess methylamine for the most part evaporating. The reaction mixture was diluted with ether, filtered and concentrated in vacuo. The methylbenzimine thus obtained was dissolved in 30 ml of methanol and, after addition of 2.0 g of sodium borohydride, the mixture was stirred overnight. It was concentrated in vacuo, and the residue was treated with 20 ml of 10 percent hydrochloric acid and extracted twice with tert-butyl methyl ether. The aqueous phase was then rendered alkaline and extracted twice again with tert-butyl methyl ether. After concentrating these extracts, 1.0 g of N-(4-fluoro-3-trifluoromethylbenzyl)-N-methylamine was obtained.

reactant | 4-fluoro-3-trifluoromethylbenzaldehyde | 1.9 g | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | methylamine | 30 ml | CN | CH5N
reactant | magnesium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | N-(4-fluoro-3-trifluoromethylbenzyl)-N-methylamine | 1.0 g | FC1=C(C=C(CNC)C=C1)C(F)(F)F | C9H9F4N
